* C:\Users\jeffr\Documents\a4\git_repos\olmec\calculations\transmitter\mosfet_rc.asc
V2 ds 0 3
V3 Vg N003 PWL(0ns 0V 9.9ns 0 10ns 1.3V 49.9ns 1.3V 50ns 0V)
M1 ds Vg rc N001 soen_nmos l=1u w=10u
C1 rc N002 500f
R1 0 rc 2e5
V1 N002 0 0
V4 N003 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jeffr\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100n
.lib C:\Users\jeffr\Documents\a4\git_repos\olmec\calculations\model.lib
.backanno
.end
