* C:\Users\jeffr\Documents\a4\olmec\calculations\transmitter\transmitter_mosfet.asc
R1 N009 N013 R=V(V_h)+1e-6
R2 led N009 10k
L1 N013 0 10n
V1 V_h 0 PWL(0 0 4.9n 0 5n 10k)
R3 0 V_h 1
V2 N004 0 2
M1 Vg_m2 N009 0 N010 soen_nmos l=1u w=10u
D1 led 0 soen_led
R4 N001 N002 500k
C1 0 N006 1p
M3 N007 N006 0 NC_01 soen_nmos l=1u w=10u
C2 N014 0 10p
R7 N003 N014 1k
R8 N004 Vg_m2 300k
M2 N005 Vg_m2 0 NC_02 soen_nmos l=1u w=10u
R6 N006 N005 100
M4 N008 N007 0 N011 soen_nmos l=1u w=10u
M5 N002 N008 0 N012 soen_nmos l=1u w=10u
R5 N004 N005 300k
R9 N004 N007 300k
R10 N004 N008 300k
V3 N001 0 4
R11 N002 N003 500k
L2 N003 N009 100n
.model D D
.lib C:\Users\jeffr\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jeffr\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib C:\Users\jeffr\Documents\a4\calculations\spice_models\model.lib
.tran 0 200n 0
.backanno
.end
